US04122179
Apovincamine enanthate
According to the preceding example, 8.3 g of the salt are obtained starting from 6.73 g of apovincamine and 2.61 g of enanthic acid. The substance is insoluble in water and alcohol and the apovincamine content is 73%.

reactant | apovincamine | 6.73 g | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3 | C21H24N2O2
reactant | enanthic acid | 2.61 g | C(CCCCCC)(=O)O | C7H14O2
solvent | water | O | H2O
product | Apovincamine enanthate | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3.C(CCCCCC)(=O)[O-] | InChI=1S/C21H24N2O2.C7H14O2/c1-3-21-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(18(15)19(21)22)17(13-21)20(24)25-2;1-2-3-4-5-6-7(8)9/h4-5,7-8,13,19H,3,6,9-12H2,1-2H3;2-6H2,1H3,(H,8,9)/p-1/t19-,21+;/m1./s1
